US04835164
3-Carboxyhomopiperidine (Source: U.S. Pat. No. 4,409,146) is reacted with benzoxycarbonyl chloride to give 3-(carboxy)-1-homopiperidinecarboxylic acid phenylmethyl ester. This derivative is isolated and reacted with diborane in tetrahydrofuran to give 3-(hydroxymethyl)-1-homopiperidinecarboxylic acid phenylmethyl ester. This derivative is isolated and reacted with pyridinium chlorochromate to give 3-(formyl)-1-homopiperidine carboxylic acid phenylmethyl ester. The epoxide of this derivative is prepared by reacting with trimethyl sulfoxonium iodide and sodium hydride in an aprotic solvent. This epoxide is reacted with sodium phenoxide and the reaction mixture is acidified to give 2-(1-hydroxy-2-phenoxyethyl)-1-homopiperidinecarboxylic acid phenylmethyl ester which is hydrogenated over palladium on carbon to give the free base of the title compound. The free base is then converted to the hydrochloride salt as in Example 38.

reactant | 3-Carboxyhomopiperidine | C(=O)(O)C1CNCCCC1 | C7H13NO2
reactant | benzoxycarbonyl chloride | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | 3-(carboxy)-1-homopiperidinecarboxylic acid phenylmethyl ester | C1(=CC=CC=C1)COC(=O)N1CC(CCCC1)C(=O)O | C15H19NO4
